US06248920B1
The procedure of Comparative Example 1 was repeated with the proviso that under the cooling conditions, 24 ml of pyridine was slowly dropwise added to a mixture of 22.6 g (0.136 mole) of 2-methyl-2-adamantanol, 130 ml of THF and 26.6 g of methacrylic chloride. The raw product was purified on a column of silica gel to obtain 12.1 g of the target product, i.e., 2-methyl-2-adamantyl methacrylate, (yield: 39.0%). It was confirmed that the product contained a remarkable amount of impurities.

reactant | pyridine | 24 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-methyl-2-adamantanol | 0.136 mole, 22.6 g | CC1(C2CC3CC(CC1C3)C2)O | C11H18O
reactant | methacrylic chloride | 26.6 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | THF | 130 ml | C1CCOC1 | C4H8O
product | 2-methyl-2-adamantyl methacrylate | yield: 39.0% | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)C | C15H22O2
